US04410354
Embodiment XXX--8-Methyl-1,6-dioxaspiro[4.5]dec-7-ene
A stirred mixture of 20.0 g of 2-methylenetetrahydrofuran, 17.7 g of reagent grade methacrolein and 0.4 g of potassium carbonate was maintained at 75° C. under nigrogen atmosphere for 7 days. Distillation of the reaction mixture yielded 19.1 g of the desired product, b.p. 65°-66° C. (4 torr.).

reactant | 2-methylenetetrahydrofuran | 20.0 g | C=C1OCCC1 | C5H8O
reactant | methacrolein | O=CC(C)=C | C4H6O
reactant | potassium carbonate | 0.4 g | C([O-])([O-])=O.[K+].[K+]
product | 8-Methyl-1,6-dioxaspiro[4.5]dec-7-ene | 19.1 g | CC1=COC2(CCCO2)CC1 | C9H14O2
